US05536717
1,2-Dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6-one
N-[2-(Indolin-1-yl)phenyl]-dimethylaminocarboxamide (37 gm; 0.13 moles) in acetic anhydride (140 ml) was refluxed for 30 minutes. The mixture was cooled to ~50° C., and thereafter concentrated on a rotary evaporator to about 80 ml while crystallization occurred. The red solid was filtered and washed with ether. Recrystallization from chloroform (500 ml) afforded red-orange crystals: 21.3 gm (68%), m.p. 213.5°-214.5° C.

reactant | N-[2-(Indolin-1-yl)phenyl]-dimethylaminocarboxamide | 0.13 moles, 37 gm | N1(CCC2=CC=CC=C12)C1=C(C=CC=C1)NC(=O)N(C)C | C17H19N3O
solvent | acetic anhydride | 140 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1,2-Dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6-one | C1CC2=CC=CC=3C(NC4=C(N1C32)C=CC=C4)=O | C15H12N2O
